US09301951B2
Intermediate 15b: N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-isopropoxyphenyl)-isonicotinamide
Into a 100-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(5-isopropoxy-2-nitrophenyl)isonicotinamide (270 mg, 0.53 mmol, 1.00 equiv, 90%) in dichloromethane/methanol (3/6 mL). The solution was treated with Pd/C (270 mg), and stirred under an atmosphere of hydrogen for 2 h at room temperature. The solids were filtered out. The filtrate was concentrated under vacuum to yield 230 mg (91%) of product as a brown oil.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(5-isopropoxy-2-nitrophenyl)isonicotinamide | 0.53 mmol, 270 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)OC(C)C)[N+](=O)[O-])=O)C=CC1)(F)F | C23H20F3N3O4
solvent | dichloromethane methanol | 6 mL | ClCCl.CO
catalyst | Pd/C | 270 mg | [Pd] | Pd
product | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-isopropoxyphenyl)-isonicotinamide | 230 mg, 91% | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)OC(C)C)N)=O)C=CC1)(F)F | C23H22F3N3O2
